US05889002
6-Chloro-3-tetradecylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and n-tetradecyl isothiocyanate by a procedure analogous to the procedure described in example 3Bc-d; mp 157°-158° C.; 1H-NMR (DMSO-d6): δ 0.85 (distorted t, 3H), 1.25 (m, 22H), 1.50 (m, 2H), 3.19 (q, 2H), 7.05 (s, 1H), 7.26 (br. s, 1H), 10.95 (br. s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | n-tetradecyl isothiocyanate | C(CCCCCCCCCCCCC)N=C=S | C15H29NS
product | 6-Chloro-3-tetradecylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NCCCCCCCCCCCCCC | C19H32ClN3O2S2
